US07642220B2
19. Preparation of 2-(4-Chloro-2-fluoro-3-methoxyphenyl)-5-ethoxy-6-hydroxypyrimidine-4-carboxylic acid methyl ester
Sodium methoxide (12 mL, 62.74 mmol) was added dropwise to a solution of 2-ethoxy-3-oxo-succinic acid diethyl ester (9.7 g of 75% purity, 31.37 mol), 4-chloro-2-fluoro-3-methoxybenzamidine hydrochloride (5 g, 20.91 mol) and MeOH (24 mL). The reaction was allowed to stir for 1 hour. The reaction was cooled to 0° C. and 1 N HCl was added to acidify the reaction. The reaction was extracted with ethyl acetate thrice. The organic extracts were combined, washed with brine, dried, filtered and concentrated. The product was purified by flash chromatography on silica gel (0-50% EtOAc/hexane) the recrystallized from dichloromethane/hexane to give a white solid (623mg, 8% yield): mp 173-175° C.: 1H NMR (CDCl3) δ 11.28 (br s, 1H), 7.78 (dd, 1H), 7.31 (dd, 1H), 4.35 (q, 2H), 4.02 (s, 3H), 3.98 (s, 3H), 1.38 (t, 3H).

reactant | Sodium methoxide | 62.74 mmol, 12 mL | C[O-].[Na+]
reactant | 2-ethoxy-3-oxo-succinic acid diethyl ester | 31.37 mol, 9.7 g | C(C)OC(C(C(C(=O)OCC)=O)OCC)=O | C10H16O6
reactant | 4-chloro-2-fluoro-3-methoxybenzamidine hydrochloride | 20.91 mol, 5 g | Cl.ClC1=C(C(=C(C(=N)N)C=C1)F)OC
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 24 mL | CO | CH4O
product | 2-(4-Chloro-2-fluoro-3-methoxyphenyl)-5-ethoxy-6-hydroxypyrimidine-4-carboxylic acid methyl ester | 623mg, 8% yield | COC(=O)C1=NC(=NC(=C1OCC)O)C1=C(C(=C(C=C1)Cl)OC)F | C15H14ClFN2O5
